US06388084B1
To a solution of N-[(1,1-dimethylethoxyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester (132 mg, 0.33 mmol) in dioxane (3 mL) was added 4 N HCl solution in dioxane (4.5 mL) at room temperature. The solution was stirred for 4 h as a white solid was formed. The mixture was diluted with diethyl ether (50 mL) and solid was collected by filtration washing with diethyl ether. After drying under high vacuum, 315 mg (92% yield) of 4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester hydrochloride salt was obtained as an amorphous white solid. ES-HRMS m/e calcd for C18H19F3N2O3 (M+Na) 391.1241, found 391.1241.

reactant | N-[(1,1-dimethylethoxyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | 0.33 mmol, 132 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | C23H27F3N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester hydrochloride salt | 315 mg, 92% yield | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | InChI=1S/C18H19F3N2O3.ClH/c1-10-8-13(18(19,20)21)15(16(24)23(10)2)12-6-4-11(5-7-12)9-14(22)17(25)26-3;/h4-8,14H,9,22H2,1-3H3;1H/t14-;/m0./s1
